US07687502B2
N-(1-Methyl-1H-pyrazol-3-yl)-6-{[3-(trifluoromethyl)-pyridin-2-yl]oxy}quinazolin-4-yl-amine
The compound of Example 123 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-chloro-3-(trifluoromethyl)pyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2-chloro-3-(trifluoromethyl)pyridine | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | N-(1-Methyl-1H-pyrazol-3-yl)-6-{[3-(trifluoromethyl)-pyridin-2-yl]oxy}quinazolin-4-yl-amine | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=CC=C1C(F)(F)F | C18H13F3N6O
